US07579469B2
To a chilled (0° C.) suspension of Soxhlet-extraction-purified CuI (14.28 g, 0.075 mol, 1.5 equiv.) in 150 mL of anhydrous diethyl ether, was added a 1.6M solution of methyl lithium (84.4 mL, 0.135 mol, 2.7 equiv.) in diethyl ether. The mixture was stirred for 10 minutes, cooled to −25° C. and a solution of (Z)-3-(3-bromophenyl)-2-cyanobut-2-enoic acid methyl ester (14.13 g, 0.05 mol) in 150 mL of anhydrous diethyl ether was added dropwise. The mixture was stirred at −25° C. for 30 minutes, warmed to room temperature, and stirred overnight. The reaction was quenched with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The combined organics were washed with brine, dried with sodium sulfate, filtered, and concentrated in vacuo to afford a brown oil. The oil was purified via flash chromatography using a hexanes-ethyl acetate gradient to afford 3-(3-bromophenyl)-2-cyano-3-methylbutyric acid methyl ester. Yield: 8.88 g (60%).

reactant | methyl lithium | 0.135 mol, 84.4 mL, 2.7 equiv. | C[Li]
reactant | (Z)-3-(3-bromophenyl)-2-cyanobut-2-enoic acid methyl ester | 0.05 mol, 14.13 g | COC(\C(=C(\C)/C1=CC(=CC=C1)Br)\C#N)=O | C12H10BrNO2
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
catalyst | CuI | 0.075 mol, 14.28 g, 1.5 equiv. | [Cu]I
product | 3-(3-bromophenyl)-2-cyano-3-methylbutyric acid methyl ester | COC(C(C(C)(C)C1=CC(=CC=C1)Br)C#N)=O | C13H14BrNO2
